US06608246B1
Elucidation of the Rate-limiting Step in Flavonol Production in Tomato Fruit
Determination of flavonoid glycosides and narichalcone (2′,4′,6′,4-tetrahydroxychalcone) in tomato fruit is carried out using a non-hydrolysing method as follows: 40 mg of freeze-dried tomato tissue is weighed and transferred to a 10 ml Pyrex glass tube. To each tube 4 ml of 75% aqueous methanol acidified with HCl to pH 2 is added. The tubes are closed with screw tops containing a Teflon inlay and incubated at room temperature (20-25° C.) for 1 hr with continuous mixing on a roller band.

reactant | 2′,4′,6′,4-tetrahydroxychalcone | OC1=C(C(C=CC2=CC=C(C=C2)O)=O)C(=CC(=C1)O)O | C15H12O5
reactant | HCl | Cl | ClH
reactant | methanol | 4 ml | CO | CH4O
product | Flavonol | O1C(=C(C(=O)C2=CC=CC=C12)O)C1=CC=CC=C1 | C15H10O3
